US08445674B2
C) 2-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-succinic acid 1-methyl ester
A solution of 0.30 g (0.60 mmol) of) 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-succinic acid 4-tert-butyl ester 1-methyl ester in 1.2 ml of dioxane was cooled down to ˜6° C. and 1.50 ml (6.01 mmol) of hydrochloric acid 4M in dioxane, then 1 drop of water were added and stirring was continued overnight at RT. The solution was evaporated, dissolved in acetonitrile and evaporated (2×) to give the titled compound in quant. yield as yellow oil. MS: 441.2 (M−H−, 2Cl).

reactant | 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-succinic acid 4-tert-butyl ester 1-methyl ester | COC(C(CC(=O)OC(C)(C)C)N1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C23H28Cl2N2O6
reactant | hydrochloric acid | 6.01 mmol, 4M, 1.50 ml | Cl | ClH
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
catalyst | water | 1 drop | O | H2O
product | 2-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-succinic acid 1-methyl ester | quant. yield | COC(C(CC(=O)O)N1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C19H20Cl2N2O6
